US04091016
Preparation of N-Methyl-N-(n-Octylthiosulfenyl)Carbamoyl Fluoride (Method I)
Prepared as above by adding 25.2 g triethylamine to a solution of 48.0 g. n-octylthiosulfenylchloride and 19.26 g N-methylcarbamoyl fluoride. b.p. 110°-118° C/0.2 Torr. ND21 1.4900.

reactant | n-octylthiosulfenylchloride | C(CCCCCCC)SSCl | C8H17ClS2
reactant | N-methylcarbamoyl fluoride | 19.26 g | CNC(=O)F | C2H4FNO
solvent | triethylamine | 25.2 g | C(C)N(CC)CC | C6H15N
product | N-Methyl-N-(n-Octylthiosulfenyl)Carbamoyl Fluoride | CN(C(=O)F)SSCCCCCCCC | C10H20FNOS2
